US05741800
Lithium triethylborohydride (100 ml, 1M solution in tetrahydrofuran) was added dropwise to a solution of ethyl 1-benzoyl-4-piperidineacetate (13.8 g) in dry tetrahydrofuran (50 ml) at 0° C. under nitrogen over 20 minutes whilst maintaining the temperature at 0°-5° C. The mixture was stirred at 0° C. for a further hour, allowed to warm to 20° C. and then water (50 ml) was added slowly. The mixture was acidified with a slight excess of dilute hydrochloric acid and extracted with ethyl acetate. The combined ethyl acetate extracts were washed (dilute hydrochloric acid, brine), dried and evaporated to give 1-benzoyl-4-(2-hydroxyethyl)piperidine as an oil.

reactant | Lithium triethylborohydride | 1M, 100 ml | C(C)[BH-](CC)CC.[Li+]
reactant | ethyl 1-benzoyl-4-piperidineacetate | 13.8 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CC(=O)OCC | C16H21NO3
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-benzoyl-4-(2-hydroxyethyl)piperidine | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCO | C14H19NO2
